US07947686B2
Step 2. Preparation of 4-(2-dimethylamino-ethoxy)-2-nitro-benzoic acid hydrochloride
To a solution of 4-(2-dimethylamino-ethoxy)-2-nitro-benzoic acid tert-butyl ester (4.53 g, 14.61 mmol) in dioxane (100 mL) was added 37% HCl (25 mL). The mixture was stirred at room temperature for 15 hours, then the suspension was evaporated and the solid dried under vacuum at 50° C. to give the title compound as yellowish solid.

reactant | 4-(2-dimethylamino-ethoxy)-2-nitro-benzoic acid tert-butyl ester | 14.61 mmol, 4.53 g | C(C)(C)(C)OC(C1=C(C=C(C=C1)OCCN(C)C)[N+](=O)[O-])=O | C15H22N2O5
reactant | HCl | 25 mL | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-(2-dimethylamino-ethoxy)-2-nitro-benzoic acid hydrochloride | Cl.CN(CCOC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-])C | InChI=1S/C11H14N2O5.ClH/c1-12(2)5-6-18-8-3-4-9(11(14)15)10(7-8)13(16)17;/h3-4,7H,5-6H2,1-2H3,(H,14,15);1H
